US07666888B2
5-[4-(Trifluoromethyl)phenyl]-4-({3-[4-(trifluoromethyl)phenyl]pyrrolidin-1-yl}carbonyl)isoxazole
The title compound was prepared from 5-(4-trifluoromethylphenyl)isoxazole-4-carboxylic acid (12.9 mg, 0.050 mmol) and 3-[4-(trifluoromethyl)phenyl]pyrrolidine oxalate (18.3 mg, 0.060 mmol) as described in synthetic method C and thereafter purified by preparative HPLC method B to give a solid (5.5 mg). Calcd for C22H16F6N2O2: 454.1116, found 454.1116.

reactant | 5-(4-trifluoromethylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 12.9 mg | FC(C1=CC=C(C=C1)C1=C(C=NO1)C(=O)O)(F)F | C11H6F3NO3
reactant | 3-[4-(trifluoromethyl)phenyl]pyrrolidine oxalate | 0.060 mmol, 18.3 mg | C(C(=O)O)(=O)O.FC(C1=CC=C(C=C1)C1CNCC1)(F)F
product | 5-[4-(Trifluoromethyl)phenyl]-4-({3-[4-(trifluoromethyl)phenyl]pyrrolidin-1-yl}carbonyl)isoxazole | FC(C1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CC(CC1)C1=CC=C(C=C1)C(F)(F)F)(F)F | C22H16F6N2O2
